US04214071
To a stirred solution of 27.6 grams (0.20 mole) m-nitroaniline in 320 ml. DMAC was added 21.8 grams (0.10 mole) PMDA. A precipitate separated in about one minute. The mixture was heated to 108° C. over 40 minutes, during which time the precipitate changed from tan to lustrous yellow. The mixture was cooled to room temperature and filtered. The solid product was washed with benzene and dried to give yellow crystals of N,N'-bis(m-nitrophenyl) pyromellitimide having a melting point of 388° C.

reactant | m-nitroaniline | 0.20 mole, 27.6 grams | [N+](=O)([O-])C=1C=C(N)C=CC1 | C6H6N2O2
reactant | PMDA | 0.10 mole, 21.8 grams | C1=C2C(=CC3=C1C(=O)OC3=O)C(=O)OC2=O | C10H2O6
solvent | DMAC | CC(=O)N(C)C | C4H9NO
product | N,N'-bis(m-nitrophenyl) pyromellitimide | C1=CC(=CC(=C1)[N+](=O)[O-])N2C(=O)C3=CC4=C(C=C3C2=O)C(=O)N(C4=O)C5=CC(=CC=C5)[N+](=O)[O-] | C22H10N4O8
